US04136098
100 g of a polyester of undecanedioic acid and 1,3-propanediol, having a degree of polymerization of 29 and an acid number of 7 mg KOH/g, is mixed with 3 g of one of the catalysts listed in Table 2 (derived from French Pat. No. 796,410) in a distillation flask of a conventional vacuum distillation apparatus. The mixture is thermolyzed for 4-5 hours under vacuum (pressure: less than 0.5 mbar) at 270° C. The yields of crude 1,5-dioxacyclohexadecane-6,16-dione, based on the amount of polyester employed, are listed in Table 2.

reactant | undecanedioic acid | C(CCCCCCCCCC(=O)O)(=O)O | C11H20O4
reactant | 1,3-propanediol | C(CCO)O | C3H8O2
reactant | KOH | 7 mg | [OH-].[K+]
product | 1,5-dioxacyclohexadecane-6,16-dione | O1CCCOC(CCCCCCCCCC1=O)=O | C14H24O4
